US06294531B1
b) 2-Carboxymethyl-5-methoxy-phenyl-oxy-(3-aminobenzene)
A solution of 2-carboxymethyl-5-methoxy-phenyl-oxy-(3-nitrobenzene) (57 g, 0.187 mol) and 10% Pd/C (11 g) was hydrogenated in MeOH (1000 mL) at 50 psi for 2 h. The solution was filtered through Celite® and the filtrate was concentrated. Flash chromatography (silica gel, 20% EtOAc/Hexane) yielded the title compound (49.3 g, 96%): MS (ES) m/e 274.1 (M+H)+.

reactant | 2-carboxymethyl-5-methoxy-phenyl-oxy-(3-nitrobenzene) | 0.187 mol, 57 g | C(=O)(O)CC1=C(C=C(C=C1)OC)OC1=CC(=CC=C1)[N+](=O)[O-] | C15H13NO6
solvent | MeOH | 1000 mL | CO | CH4O
catalyst | Pd/C | 11 g | [Pd] | Pd
product | 2-Carboxymethyl-5-methoxy-phenyl-oxy-(3-aminobenzene) | 49.3 g, 96% | C(=O)(O)CC1=C(C=C(C=C1)OC)OC1=CC(=CC=C1)N | C15H15NO4
